US06605628B1
5-(5-Pyridin-3-yl-Pent-4-ynyl)-5-(toluene-4-sulfonyl)-thiazolidine-2,4-dione
A solution of 5-pent-4-ynyl-5-(toluene-4-sulfonyl)-thiazolidine-2,4-dione(1.0 mmol), 4-pentyn-1-ol (1.0 mmol), bistriphenylphosphine(Pd II) chloride (0.20 mmol), and copper(I) iodide (0.10 mmol) in 50 ml of diethylamine was stirred under nitrogen for three days. This was diluted with dichloromethane and the product was purified by chromatography to give the title compound as a light beige solid, mp 173-176° C., THEORY: C, 57.95, H, 4.38 N, 6.76. FOUND: C, 57.68, H, 4.35, N, 6.70.

reactant | 5-pent-4-ynyl-5-(toluene-4-sulfonyl)-thiazolidine-2,4-dione | 1.0 mmol | C(CCC#C)C1(C(NC(S1)=O)=O)S(=O)(=O)C1=CC=C(C=C1)C | C15H15NO4S2
reactant | 4-pentyn-1-ol | 1.0 mmol | C(CCC#C)O | C5H8O
reactant | diethylamine | 50 ml | C(C)NCC | C4H11N
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | copper(I) iodide | 0.10 mmol | [Cu]I
product | 5-(5-Pyridin-3-yl-Pent-4-ynyl)-5-(toluene-4-sulfonyl)-thiazolidine-2,4-dione | N1=CC(=CC=C1)C#CCCCC1(C(NC(S1)=O)=O)S(=O)(=O)C1=CC=C(C=C1)C | C20H18N2O4S2
